### PR TITLE
feat: euclidean half spaces and quadrants have convex interior

### PR DESCRIPTION
**Pull request by grunweg**
These lemmas are a prerequisite for #23658, which will impose that real or complex models with corners have convex interior.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 1]
```diff
@@ -164,6 +164,55 @@ theorem range_euclideanQuadrant (n : ℕ) :
...
+  exact (isClosed_iInter fun i ↦ isClosed_Ici.preimage (f i).continuous).closure_eq
+
+open ENNReal in
+theorem frontier_quadrant (n : ℕ) (p : ℝ≥0∞) (a : ℝ) :
+    frontier { y : PiLp p (fun _ : Fin n ↦ ℝ) | ∀ i : Fin n, a ≤ y i } =
+      { y | (∀ i : Fin n, a ≤ y i) ∧ ∃ i : Fin n, (a = y i) } := by
+  rw [frontier, closure_quadrant, interior_quadrant]
+  ext y
+  simp only [mem_diff, mem_setOf_eq, not_forall, not_lt, and_congr_right_iff]
+  exact fun aux ↦ exists_congr fun i ↦ ⟨fun h ↦ by linarith [aux i], fun h ↦ by linarith⟩
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Real.lean:198]: That was a left-over from a previous version: changed to `h`.

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 2]
```diff
@@ -164,6 +164,55 @@ theorem range_euclideanQuadrant (n : ℕ) :
...
+  apply iInter_congr fun i ↦ ?_
+  rw [(f i).interior_preimage, interior_Ici]
+  apply Function.surjective_eval
+
+open ENNReal in
+theorem closure_quadrant (n : ℕ) (p : ℝ≥0∞) (a : ℝ) :
+    closure { y : PiLp p (fun _ : Fin n ↦ ℝ) | ∀ i : Fin n, a ≤ y i } =
+      { y | ∀ i : Fin n, a ≤ y i } := by
+  let f : (Fin n) → (Π _ : Fin n, ℝ) →L[ℝ] ℝ := fun i ↦ ContinuousLinearMap.proj i
+  have h : { y : PiLp p (fun _ : Fin n ↦ ℝ) | ∀ i : Fin n, a ≤ y i } = ⋂ i, (f i )⁻¹' Ici a := by
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Real.lean]: Good question! I'm not sure this would be worth it. (Yes, we would re-use the same function `f` twice, and extract 2 lemmas overall. My personal heuristic tends to be "three times" (or lots of code re-use), which is not given here.)

**Comment by grunweg** [comment]
Thanks for the review! I have addressed or responded to all your comments.

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 3]
```diff
@@ -164,6 +164,54 @@ theorem range_euclideanQuadrant (n : ℕ) :
     (range fun x : EuclideanQuadrant n => x.val) = { y | ∀ i : Fin n, 0 ≤ y i } :=
   Subtype.range_val
 
+open ENNReal in
+theorem interior_quadrant (n : ℕ) (p : ℝ≥0∞) (a : ℝ) :
+    interior { y : PiLp p (fun _ : Fin n ↦ ℝ) | ∀ i : Fin n, a ≤ y i } =
+      { y | ∀ i : Fin n, a < y i } := by
+  let f : Fin n → (Π _ : Fin n, ℝ) →L[ℝ] ℝ := fun i ↦ ContinuousLinearMap.proj i
```
Comment (urkud) [inline Mathlib/Geometry/Manifold/Instances/Real.lean:171]: - Have a look at `interior_pi_set`.
- Please add a lemma about `interior (Set.Ici f)`, where `f : ∀ i, X i`, with `univ.pi fun i => Ioi (f i)` in the RHS.
- I'm a bit worried about defeq abuse around `PiLp`, but this seems to happen all over the place.

Comment (urkud) [reply Mathlib/Geometry/Manifold/Instances/Real.lean:171]: One more question: why not ask for the whole model to be convex? Then you can use `Convex.interior` to get convexity of the interior.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Real.lean:171]: @fpvandoorn and I were discussing this last week: indeed, convexity of the full range versus interior came up.

We are wondering if a larger change is needed, though --- and will post about this on zulip soon.

**Comment by sgouezel** [comment]
The conclusion I remember from the Zulip discussion was that #23658 was maybe not a good idea (and if we went for the convex stuff we should require that the range itself is convex, not its interior), so I'm not sure I see the point of the current PR. Am I missing something?

**Comment by sgouezel** [comment]
In any case, if you want to go on with the PR, shouldn't this be proved using `Convex.interior`?

**Comment by grunweg** [comment]
You remember right: in my reading, this PR is not a viable strategy to fix the definition of models with corners. (I'll post a summary of the discussions soon, perhaps still tonight.)

> In any case, if you want to go on with the PR, shouldn't this be proved using `Convex.interior`?
Good point. Since I'm not sure if these lemmas has another use and the file already contains the necessary convexity instances for the half-spaces/quadrants, let me close this PR.

Thanks for all the feedback, in any case!
